US05344843
A mixture of 4-[[2-(1-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.7 g) in methanol and 0.5N sodium hydroxide (6 mL) was treated as in Example 19. Extraction with dichloromethane provided material which was crystallized from dichloro-methane-diethyl ether to give 0.54 g of colorless 4-[[2-(1-naphthalenyloxy) ethyl]oxy]-alpha-oxobenzeneacetic acid, mp 124°-125° C. after drying over phosphorus pentoxide at 60° C. and 0.1 mm.

reactant | 4-[[2-(1-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.7 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC=CC2=CC=CC=C12)=O)=O | C21H18O5
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 0.5N, 6 mL | [OH-].[Na+]
product | 4-[[2-(1-naphthalenyloxy) ethyl]oxy]-alpha-oxobenzeneacetic acid | 0.54 g | C1(=CC=CC2=CC=CC=C12)OCCOC1=CC=C(C=C1)C(C(=O)O)=O | C20H16O5
